US07183320B2
N-[3-chloro-4-fluorophenylsulfonyl]-3-fluoro-4-methylbenzamidine
Add 3-fluoro-4-methylbenzamidine hydrochloride (0.025 g, 0.133 mmol) in THF (0.5 mL) to 3-chloro-4-fluorophenyl sulfonylchloride (0.0304 g, 0.133 mmol) followed by N-methylmorpholine (0.2 mL). The reaction mixture was concentrated and chromatographed using reverse phase chromatography (gradient of 5–95% (0.1% TFA in CH3CN) in (0.1% TFA in H2O). A white solid (16.4 mg, 36%) was isolated. ES Positive Ion MS [M+H]+ ions observed: m/z 345 (35Cl) and m/z 347 (37Cl).

reactant | 3-fluoro-4-methylbenzamidine hydrochloride | 0.133 mmol, 0.025 g | Cl.FC=1C=C(C(=N)N)C=CC1C
reactant | 3-chloro-4-fluorophenyl sulfonylchloride | 0.133 mmol, 0.0304 g | ClC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3Cl2FO2S
reactant | N-methylmorpholine | 0.2 mL | CN1CCOCC1 | C5H11NO
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-[3-chloro-4-fluorophenylsulfonyl]-3-fluoro-4-methylbenzamidine | 16.4 mg, 36% | ClC=1C=C(C=CC1F)S(=O)(=O)NC(C1=CC(=C(C=C1)C)F)=N | C14H11ClF2N2O2S
